US08334292B1
Preparation of 4-((1-methylsulfonyl-azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine
Using the procedure of Example 1 Step 5, 4-((azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine was reacted with methanesulfonyl chloride to provide the title compound in 87% yield. 1H NMR (CDCl3, 400 MHz) 8.09 (s, 1H), 7.34 (d, 2H), 6.93 (d, 2H), 5.17 (sb, 1H), 4.50 (d, 2H), 4.08 (m, 1H), 4.01 (m, 2H), 3.87 (m, 4H), 3.82 (m, 2H), 3.17 (m, 4H), 3.05 (m, 1H), 2.66 (s, 3H), 1.85-1.55 (m, 6H), 1.80-1.40 (m, 3H), 0.94 (d, 3H); MS (ESI) m/z: Calc: 515.3 (M). Found. 516.3 (M+1).

reactant | 4-((azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | N1CC(C1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C25H35N5O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 4-((1-methylsulfonyl-azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | 87% yield | CS(=O)(=O)N1CC(C1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C26H37N5O4S
